US06734184B1
To a solution of 1-phenyl-4-(trans-b-styrenesulfonyl)piperazine (108 mg) in THF (3 ml) was added hydroxylamine (0.45 ml, 50% aqueous solution). The mixture was stirred at ambient temperature for 18 hours. Solvent was removed in vauo and the residue dissolved in dichloromethane, washed with water, dried (Na2SO4) and evaporated to give the product 1-[2-(hydroxyamino)-2-phenylethanesulfonyl]-4-phenylpiperazine as a foam (120 mg).

reactant | 1-phenyl-4-(trans-b-styrenesulfonyl)piperazine | 108 mg | C1(=CC=CC=C1)N1CCN(CC1)S(=O)(=O)\C=C\C1=CC=CC=C1 | C18H20N2O2S
reactant | hydroxylamine | 0.45 ml | NO | H3NO
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 1-[2-(hydroxyamino)-2-phenylethanesulfonyl]-4-phenylpiperazine | 120 mg | ONC(CS(=O)(=O)N1CCN(CC1)C1=CC=CC=C1)C1=CC=CC=C1 | C18H23N3O3S
